US05661108
A solution of 3.7 grams (0.007 mole) of N-trifluoromethylcarbonyl-2-[(trifluoromethylcarbonyl)(3-chlorophenylmethyl)amino]-4-ethoxycarbonylamino-5-fluoroaniline in 50 mL of methanol was stirred, and a solution of 1.0 gram (0.007 mole) of potassium carbonate in a minimum amount of water was added. The reaction mixture was then heated at reflux for about three hours, after which the reaction mixture was cooled, poured into cold water, and acidified to a pH of 6 with aqueous 3N hydrochloric acid. The resultant solid was collected by filtration and dried, yielding 3.2 grams of 2-[(trifluoromethylcarbonyl)(3-chlorophenylmethyl)amino]-4-ethoxycarbonylamino-5-fluoroaniline. The NMR spectrum was consistent with the proposed structure.

reactant | N-trifluoromethylcarbonyl-2-[(trifluoromethylcarbonyl)(3-chlorophenylmethyl)amino]-4-ethoxycarbonylamino-5-fluoroaniline | 0.007 mole, 3.7 grams | FC(C(=O)NC1=C(C=C(C(=C1)F)NC(=O)OCC)N(CC1=CC(=CC=C1)Cl)C(=O)C(F)(F)F)(F)F | C20H15ClF7N3O4
reactant | potassium carbonate | 0.007 mole, 1.0 gram | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 2-[(trifluoromethylcarbonyl)(3-chlorophenylmethyl)amino]-4-ethoxycarbonylamino-5-fluoroaniline | 3.2 grams | FC(C(=O)N(C1=C(N)C=C(C(=C1)NC(=O)OCC)F)CC1=CC(=CC=C1)Cl)(F)F | C18H16ClF4N3O3
